US05677303
3-(3,4-Dimethoxyphenyl)prop-2-ynoic acid
To a solution of 52.7 g (0.80 mol) of potassium hydroxide (85%) in 300 ml of ethanol and 30 ml of water 59.4 g (0.15 mol) of 2,3-dibromo-3-(3,4-dimethoxyphenyl)propionic acid ethyl ester are added at 25° C. over 10 minutes. The mixture is stirred under reflux for 2.5 hours. The solvent is evaporated, the residue dissolved in 200 ml of water and, with cooling to 10° C., the solution acidified with 2N hydrochloric acid. The resulting crystals are filtered off, washed with water and recrystallized from methanol/water.

reactant | potassium hydroxide | 0.80 mol, 52.7 g | [OH-].[K+]
reactant | water | 0.15 mol, 30 ml, 59.4 g | O | H2O
reactant | 2,3-dibromo-3-(3,4-dimethoxyphenyl)propionic acid ethyl ester | C(C)OC(C(C(C1=CC(=C(C=C1)OC)OC)Br)Br)=O | C13H16Br2O4
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 3-(3,4-Dimethoxyphenyl)prop-2-ynoic acid | COC=1C=C(C=CC1OC)C#CC(=O)O | C11H10O4
